******************************************************************************* 
*                                                                             * 
* Copyright 2025 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
******************************************************************************* 
*******************************************************************************
* MOS SVaricap section
*******************************************************************************
*
*                        Gate1
*                        |  Well
*                        |  |  Gate2
*                        |  |  |  Substrate
*                        |  |  |  |
.subckt sg13_hv_svaricap G1 W G2 bn
.params l=600e-9  w=3e-6  mm_ok=1  Nx=1  Ny=1  trise=0  ic_=1e10

*LowL  paramtest warnif = (l<300n)  message="Channel length must be >=300n."
*HiL  paramtest warnif = (l>800n)  message="Channel length must be <=800n."
*LowW  paramtest warnif = (w<3.74um)  message="Channel width must be >=3.74u"
*HiW  paramtest warnif = (w>9.74um)  message="Channel width must be <=9.74u"
*LowNX  paramtest warnif = (Nx<1)  message="NX must be >=1."
*HiNX  paramtest warnif = (Nx>10)  message="NX must be <=10."
*LowNY  paramtest warnif = (Ny<1)  message="NYmust be >=1."
*HiNY  paramtest warnif = (Ny>1)  message="NY must be <=1."
*
*internal parameters, do not pass from outside
.params rwell0     = 32.85
.params rwellw     = -2.499E+06
.params rwellnx    = 4.759E+06
.params rwellvw    = 0
.params rwellwvw   = 0
.params rwellnxvw  = 0
.params rsubw0     = 0.2596
.params rsubwf     = 0.0009212
.params rsubwexp   = 0.6952
.params ck0        = 4.267E-16
.params ckwnx      = -7.948E-11
.params ckw        = 1.252E-10
.params cic0       = 1E-18
.params vfbo       = -0.04009
.params toxo       = 6.945E-09
.params rk0        = 346.7
.params rkwnx      = 0.000631

*
* add tiny element to allow passing an IC value
.if (ic_>1e9)
   Cic1 G1 W0 c=cic0
   Cic2 G2 W0 c=cic0
.else
   Cic1 G1 W0 c=cic0 ic=ic_
   Cic2 G2 W0 c=cic0 ic=ic_
.endif

*-- dummy nodes
rdummy1  W 2 r = 0.0001
rdummy2 bn 4 r = 0.0001

* --------- MOS Varactor 1 ------------------------------
nmvcap1 G1 bi1 W0 sg13_hv_svaricap l = l w = w m = 'Nx*Ny' dta = trise

* --------- MOS Varactor 2 ------------------------------
nmvcap2 G2 bi2 W0 sg13_hv_svaricap l = l w = w m = 'Nx*Ny' dta = trise

* --------- Well Parasitic --------------------
rww   W  W0 r = '((((rwell0+(rwellvw*(v(2, 4))))+((rwellw+(rwellwvw*(v(2, 4))))*w))+(((rwellnx+(rwellnxvw*(v(2, 4))))*w)/(Nx*Ny)))*Nx)*Ny'
dsubw W1  W dsubw off area = '(((Nx*0.38u)+(Nx*l))+1.11u)*(Ny*(w+0.97u))' pj = '2*((((Nx*0.38u)+(Nx*l))+1.11u)+(Ny*(w+0.97u)))'
rsubw W1 bn r = '(rsubw0/(sqrt(pow(Nx, rsubwexp))))/(w+rsubwf)'
.model dsubw d is = 2.45E-17 jsw = 5.959E-10 n = 4 ns = 1.029 cjo = 1.444E-15 vj = 0.1 m = 0.1052 cjp = 1.117E-09 php = 0.457 mjsw = 0.2595 fc = 0.95 cta = 1E-06

* --------- Coupling G1 G2 capacitance with serial resistor ---------
ck_g12 G1 G2a c = '(((ck0+(ckw*w))+((ckwnx*w)/(Nx*Ny)))*Nx)*Ny'
rk G2a G2 r = '(rk0+(rkwnx/w))/(Nx*Ny)'

.model sg13_hv_svaricap mosvar
+ version = 1.3
+ subversion = 0
+ revision = 0
+ level = 1000
+ tmin = -100
+ tmax = 500
+ vmax = 1E+04
+ tr = 27
+ lmin = 2.99E-07
+ lmax = 8.1E-07
+ wmin = 3.7E-06
+ wmax = 9.8E-06
+ swres = 1
+ swigate = 1
+ type = -1
+ typep = -1
+ toxo = 'toxo*sg13g2_hv_svaricap_toxo'
+ tau = 0.1
+ vfbo = 'vfbo*sg13g2_hv_svaricap_vfbo'
+ nsubo = 3.802E+23
+ mnsubo = 1
+ dnsubo = 0
+ vnsubo = 0
+ nslpo = 0.1
+ npo = 1E+27
+ qmc = 1
+ dlq = '4.31E-10*sg13g2_hv_svaricap_dlq'
+ dwq = '-1.081E-07*sg13g2_hv_svaricap_dwq'
+ dwr = 0
+ cfrl = 1.856E-09
+ cfrw = 3.155E-11
+ rshg = 0
+ rpv = 0
+ rend = 0.0003795
+ rshs = 727.8
+ uac = 0.06
+ uacred = 0
+ stvfb = 0
+ strshg = 0
+ strpv = 0
+ strend = 0
+ strshs = 0
+ stuac 40
+ feta = 1
+ chibo = 3.1
+ chibpo = 4.5
+ stig = 2
+ lov = 0
+ novo = 1.311E+25
+ iginvlw = 0
+ igovw = 0
+ gcoo = 0
+ gc2o = 0.375
+ gc3o = 0.063
+ igchvlw = 0
+ igovhvw = 0
+ gcohvo = 0
+ gc2hvo = 0.375
+ gc3hvo = 0.063
*+ minr = 0.001
*+ igmax = 1E-05
+ igmax = 1E-02

.ends sg13_hv_svaricap
